US05284847
6-Isopropylthieno[2,3-b]pyrazine-2,3(1H,4H)-dione
2-Ethoxalylamino-5-isopropyl-3-nitrothiophene (i g, 3.5 mmol) was dissolved in 10 ml of dioxane at 50° C., 6 ml of water was added, and the solution was treated with 12.2 g (70 mmol) of sodium dithionite dissolved in 50 ml of warm water (50° C.) over a period of 30 minutes. The mixture was cooled and extracted with 4×25 ml of ethyl acetate. The combined organic phases were washed with water, dried (MgSO4), and concentrated to 15 ml, whereby a crop of crystals separated which was filtered off and dried to yield 65 mg (8%) of the title compound, melting over 300° C. 1H-NMR (DMSO-D6, δ): 1.2 (d, 6H) ,3.1 (m, 1H), 6.5 (s, 1H), 11.8 (broad, 1H), 12.2 (broad, 1H).

reactant | 2-Ethoxalylamino-5-isopropyl-3-nitrothiophene | 3.5 mmol | C(=O)(C(=O)OCC)NC=1SC(=CC1[N+](=O)[O-])C(C)C | C11H14N2O5S
reactant | sodium dithionite | 70 mmol, 12.2 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | water | 6 ml | O | H2O
product | 6-Isopropylthieno[2,3-b]pyrazine-2,3(1H,4H)-dione | 65 mg, 8% | C(C)(C)C1=CC2=C(NC(C(N2)=O)=O)S1 | C9H10N2O2S
